US08207199B2
To a solution of 3-phenyl-1H-pyrazole (300 mg) in toluene (15 mL) were added tert-butyl 4-hydroxypiperidine-1-carboxylate (838 mg) and (tributylphosphoranylidene)acetonitrile (1.0 g), followed by stirring at 100° C. for 4 hours. The reaction liquid was concentrated under reduced pressure, and then the residue was purified by silica gel column chromatography (hexane/ethyl acetate=100/0 to 50/50) and purified again by silica gel column chromatography (hexane/ethyl acetate=100/0 to 70/30) to obtain tert-butyl 4-(3-phenyl-1H-pyrazol-1-yl)piperidine-1-carboxylate (475 mg) as a colorless oily substance.

reactant | 3-phenyl-1H-pyrazole | 300 mg | C1(=CC=CC=C1)C1=NNC=C1 | C9H8N2
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 838 mg | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | (tributylphosphoranylidene)acetonitrile | 1.0 g | C(CCC)P(CCCC)(CCCC)=CC#N | C14H28NP
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(3-phenyl-1H-pyrazol-1-yl)piperidine-1-carboxylate | 475 mg | C1(=CC=CC=C1)C1=NN(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H25N3O2
